US04045209
4.3 g of 80% m-chloroperbenzoic acid dissolved in 50 ml of methylene chloride were added dropwise to a solution of 6.15 g of N-methyl-N-tert.-butylthio-N'-(3,4-dichlorophenyl)-urea in 60 ml of methylene chloride cooled to 0° C. and after stirring the mixture at 0° C. for 20 minutes, the insolubles were removed by filtration. The organic phase was washed with an aqueous saturated solution of sodium bicarbonate, then with water and dried. The solvent was distilled off under reduced pressure and the residue was crystallized from isopropyl ether to obtain 5.5 g of N-methyl-N-tert.-butylsulfinyl-N'-(3,4-dichlorophenyl)-urea melting at 118° C.

reactant | m-chloroperbenzoic acid | 4.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | N-methyl-N-tert.-butylthio-N'-(3,4-dichlorophenyl)-urea | 6.15 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)SC(C)(C)C | C12H16Cl2N2OS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-tert.-butylsulfinyl-N'-(3,4-dichlorophenyl)-urea | 5.5 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)S(=O)C(C)(C)C | C12H16Cl2N2O2S
